US07981900B2
2-Chloro-5-methyl-N-[(1S)-1-pyridin-3-ylbutyl]pyrimidin-4-amine
To a solution of (1S)-1-pyridin-3-ylbutan-1-amine (600 mg, 4.0 mmol) in ethanol (20 mL) was added 2,4-dichloro-5-methylpyrimdine (717 mg, 4.4 mmol) and diisopropylethylamine (1.4 mL, 8 mmol). The solution was heated at reflux for 24 h after which time the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (30 mL) and washed with H2O (2×15 mL), brine (15 mL) and dried (Na2SO4). The residue remaining after concentration in vacuo was chromatographed using ethyl acetate-hexanes (9:1) as eluant to separate the desired product (370 mg).

reactant | (1S)-1-pyridin-3-ylbutan-1-amine | 4.0 mmol, 600 mg | N1=CC(=CC=C1)[C@H](CCC)N | C9H14N2
reactant | 2,4-dichloro-5-methylpyrimdine | 4.4 mmol, 717 mg | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | diisopropylethylamine | 8 mmol, 1.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-Chloro-5-methyl-N-[(1S)-1-pyridin-3-ylbutyl]pyrimidin-4-amine | ClC1=NC=C(C(=N1)N[C@@H](CCC)C=1C=NC=CC1)C | C14H17ClN4
